US04757061
4-azidoandrosta-1,4,6-trien-3,17-dione [I, R=N3, R1 =R2 =H, (x)=(y)=double bond]
To a stirred solution of 0.5 g of 6β-bromo-7α-acetoxyandrosta-1,4-dien-3,17-dione in 30 ml of dimethylformamide and 1.2 ml of water are added 0.11 g of sodium azide. The reaction mixture is heated at 100° C. for 45 minutes, cooled, poured into 500 ml of iced water and extracted with ethyl acetate. The combined extracts are washed with water, dried over sodium sulphate, filtered and evaporated in vacuo to give a residue which is purified by column chromatography on silica gel. Elution with n-hexane:ethyl acetate 70:30 yields 0.28 g of the title compound, m.p. 123°-125° C. (dec.);

reactant | 6β-bromo-7α-acetoxyandrosta-1,4-dien-3,17-dione | 0.5 g | Br[C@@H]1[C@H]([C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@]2(C=CC(C=C12)=O)C)=O)OC(C)=O | C21H25BrO4
reactant | sodium azide | 0.11 g | [N-]=[N+]=[N-].[Na+]
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | 1.2 ml | O | H2O
solvent | water | 500 ml | O | H2O
product | 4-azidoandrosta-1,4,6-trien-3,17-dione | 0.28 g | N(=[N+]=[N-])C1=C2C=C[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(C=CC1=O)C)=O | C19H21N3O2
